US06673803B2
A mixture of sodium ethanethiolate (120 mg, 1.5 mmol) and 4-(4chloro-2-fluoroanilino)7-(3-chloropropoxy)-6-methoxyquinazoline (227 mg, 0.57 mmol) in DMF (10 ml) was stirred and heated at 70° C. for 3 hours. The reaction mixture was allowed to cool, was diluted with water and extracted with ethyl acetate (3×75 ml). The extracts were combined, washed with water (×2), and then brine, and dried (MgSO4). The solvent was removed by evaporation and the residue was recrystallised from ethyl acetate/hexane to give 4chloro-2-fluoroanilino)-7-(3-(ethylthio)propoxy)6-methoxyquinazoline (86 mg, 40%).

reactant | sodium ethanethiolate | 1.5 mmol, 120 mg | C(C)[S-].[Na+]
reactant | 4-(4chloro-2-fluoroanilino)7-(3-chloropropoxy)-6-methoxyquinazoline | 0.57 mmol, 227 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCCl)C=C1)F | C18H16Cl2FN3O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-(3-(ethylthio)propoxy)6-methoxyquinazoline | 86 mg, 40% | C(C)SCCCOC1=C(C=C2C=NC=NC2=C1)OC | C14H18N2O2S
